US04829067
7.0 g of 2-phenylbenzofuran-7-carboxylic acid are dissolved in 70 ml of methanol, and 6.4 ml of thionyl chloride are added dropwise thereto at 0° C. The mixture is refluxed for 1 hour and evaporated to remove solvent. The residue is dissolved in ethyl acetate, and the solution is washed with water, dried and evaporated to remove solvent. The residue is recrystallized from n-hexane to give 7.04 g of methyl 2-phenylbenzofuran-7-carboxylate as colorless needles.

reactant | 2-phenylbenzofuran-7-carboxylic acid | 7.0 g | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2C(=O)O | C15H10O3
reactant | thionyl chloride | 6.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 70 ml | CO | CH4O
product | methyl 2-phenylbenzofuran-7-carboxylate | 7.04 g | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2C(=O)OC | C16H12O3
